US07939527B2
Intermediate 21: [4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)phenyl]methanol
To a solution of 2-chloro[1,3]thiazolo[5,4-b]pyridine (103 mg, 0.604 mmol) in DMF (2.0 mL) was added 4-hydroxymethyl-phenol (75 mg, 0.604 mmol, 1.0 equiv.) and Cs2CO3 (221 mg, 0.628 mmol, 1.04 equiv.). The reaction was allowed to stir at rt for 14 h. The reaction mixture was then filtered through diatomaceous earth, diluted with EtOAc (15 mL), washed with water (4×50 mL) and dried. After filtration and concentration, the desired product was obtained as a cream-colored solid (140 mg, 90%). MS (ESI): mass calcd. for C13H10N2O2S, 258.1; m/z found, 259.0 [M+H]+. 1H NMR (600 MHz, DMSO-d6): 8.46-8.44 (m, 1H), 8.11-8.08 (m, 1H), 7.51 (dd, J=8.2, 4.7, 1H), 7.48-7.42 (m, 4H), 5.32 (t, J=5.8, 1H), 4.55 (d, J=5.8, 2H).

reactant | 2-chloro[1,3]thiazolo[5,4-b]pyridine | 0.604 mmol, 103 mg | ClC=1SC2=NC=CC=C2N1 | C6H3ClN2S
reactant | 4-hydroxymethyl-phenol | 0.604 mmol, 75 mg, 1.0 equiv. | OCC1=CC=C(C=C1)O | C7H8O2
reactant | Cs2CO3 | 0.628 mmol, 221 mg, 1.04 equiv. | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | [4-([1,3]Thiazolo[5,4-b]pyridin-2-yloxy)phenyl]methanol | N1=C(SC2=NC=CC=C21)OC2=CC=C(C=C2)CO | C13H10N2O2S
